US05780437
1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-3-yl-butylamino)ethyl]-1H-indol-5-yl}4-methyl- 1,4-dihydrotetrazol-5-one
To a stirred solution of 1-[3-{2-[benzyl-(4-pyridin-3-yl-butyl)amino]ethyl }-2-(3,5-dimethylphenyl)-1H-indol-5-yl] -4-methyl-1,4-dihydrotetrazol-5-one (20 mg in 4 mL methanol) was added 15 mg of 10% palladium hydroxide on carbon catalyst followed by acetic acid (0.020 mL of a 30% solution in water). The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 30 minutes the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo. Purification by flash chromatography (methylene chloride:methanol:ammonium hydroxide, 90:6.5:1) gave the title compound (16 mg). m/e=496 (M+H)

reactant | 1-[3-{2-[benzyl-(4-pyridin-3-yl-butyl)amino]ethyl }-2-(3,5-dimethylphenyl)-1H-indol-5-yl] -4-methyl-1,4-dihydrotetrazol-5-one | 4 mL, 20 mg | C(C1=CC=CC=C1)N(CCC1=C(NC2=CC=C(C=C12)N1N=NN(C1=O)C)C1=CC(=CC(=C1)C)C)CCCCC=1C=NC=CC1 | C36H39N7O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 15 mg | [OH-].[OH-].[Pd+2]
solvent | water | O | H2O
product | 1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-3-yl-butylamino)ethyl]-1H-indol-5-yl}4-methyl- 1,4-dihydrotetrazol-5-one | 16 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC=1C=NC=CC1)N1N=NN(C1=O)C | C29H33N7O
